US04424396
A mixture of 30 parts of potassium valinate, 15 parts of p-fluoro-benzotrifluoride, 7 parts of dichlorohexano-18-crown-6 ether catalyst, 10 parts of potassium carbonate and 126 parts of sulfolane was placed in a pressure reactor. The reactor was degassed, placed under an argon atmosphere and sealed. The reaction mixture was then heated and maintained at about 100° C. for about 15 hours. Analysis of the reaction product indicated a 7.0% yield of 2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid based on p-fluorobenzotrifluoride starting material.

reactant | potassium valinate | N[C@@H](C(C)C)C(=O)[O-].[K+]
reactant | p-fluoro-benzotrifluoride | FC1=CC=C(C=C1)C(F)(F)F | C7H4F4
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sulfolane | S1(=O)(=O)CCCC1 | C4H8O2S
product | 2-(4-trifluoromethylphenylamino)-3-methylbutanoic acid | 7.0% yield | FC(C1=CC=C(C=C1)NC(C(=O)O)C(C)C)(F)F | C12H14F3NO2
